US04329347
6-[4-(3,4-Dimethoxyphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 3,4-dimethoxy-thiophenol and 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril [prepared from 6-hydroxy-carbostyril (see F. Mayer et al. in Ber. Dtsch. Chem. Ges. 60, 858 (1927) and 4-chloro-butyl benzenesulfonate].

reactant | 3,4-dimethoxy-thiophenol | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 6-hydroxy-carbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | 4-chloro-butyl benzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OCCCCCl | C10H13ClO3S
product | 6-[4-(3,4-Dimethoxyphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | COC=1C=C(C=CC1OC)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C21H25NO4S
